US05166347
Preparation of N-cyano-N'-(4-methylbenzyl)-2-pyridinecarboximidamide (method i)
Methyl N-cyano-2-pyridinecarboximidate (0.30 g, 1.9 mmol) was dissolved in methanol (10 ml), p-methylbenzylamine (0.25 g, 2.1 mmol) was added, and the resulting mixture was stirred at room temperature for 2 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue thus obtained was crystallized from diethyl ether to give the title compound (0.41 g, 1.6 mmol, yield: 91%) as colorless crystals.

reactant | Methyl N-cyano-2-pyridinecarboximidate | 1.9 mmol, 0.30 g | C(#N)N=C(OC)C1=NC=CC=C1 | C8H7N3O
reactant | p-methylbenzylamine | 2.1 mmol, 0.25 g | CC1=CC=C(CN)C=C1 | C8H11N
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-(4-methylbenzyl)-2-pyridinecarboximidamide | 1.6 mmol, 0.41 g, yield: 91% | C(#N)NC(=NCC1=CC=C(C=C1)C)C1=NC=CC=C1 | C15H14N4
